US05100897
2-n-Butyl-5-(ethoxycarbonyl)pyrimidin-4(3H)-one
To a solution of 2.0 g valeramidine hydrochloride and 750 mg sodium methoxide in 50 mL methanol was added 3.2 g diethyl ethoxymethylenemalonate (Aldrich) at room temperature. After 2 hours, an additional 850 mg sodium methoxide was added and the mixture was allowed to stir overnight. Solvent was removed in vacuo and the remaining material was partitioned between saturated aqueous ammonium chloride solution and ether. The organic layer was removed and the aqueous layer was extracted twice more with ether. The combined organic material was dried over MgSO4, was stripped of solvent in vacuo, and then was Still flash chromatographed in 3% MeOH in CH2Cl2 to give the title compound as a white solid. 1H NMR (250 MHz, CDCl3) δ8.73 (s, 1H), 4.37 (4 line m, 2H), 2.77 (3 line m, 2H) 1.80 (m, 2H), 1.41 (m, 2H) 1.38 (3 line m, 3H), 0.96 (3 line m, 3H).

reactant | valeramidine hydrochloride | 2.0 g | Cl.C(CCCC)(=N)N
reactant | sodium methoxide | 750 mg | C[O-].[Na+]
reactant | diethyl ethoxymethylenemalonate | 3.2 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | sodium methoxide | 850 mg | C[O-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 2-n-Butyl-5-(ethoxycarbonyl)pyrimidin-4(3H)-one | C(CCC)C1=NC=C(C(N1)=O)C(=O)OCC | C11H16N2O3
